US06777418B2
A solution of 0.874 g (2.96 mmol) of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde, 1.886 g (3.11 mmol) of trans-1,2-bis(tri-n-butylstannyl)ethylene and 0.068 g (0.059 mmol) of tetrakis(triphenylphosphine)palladium in 20 ml toluene was heated to reflux under argon for 1.75 hour. The reaction was cooled slightly and 0.518 g (3.26 mmol) of 2-bromopyrimidine and 0.068 g (0.059 mmol) of tetrakis(triphenylphosphine)palladium was added in 3.5 ml toluene. The reaction was heated at reflux for 3 hours. The reaction was cooled to room temperature, quenched with 5% potassium fluoride and diluted with ethyl acetate. The two phases were stirred vigorously for 16 hours. The mixture was filtered through celite and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude material was purified by flash chromatography (gradient elution with 20% ethyl acetate/hexane-25% ethyl acetate/hexane) to afford 0.254 g (27%) of 3-((E)-2-(pyrimidin-2-yl)vinyl)-5,5,8,8,-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde (M+1=321).

reactant | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 2.96 mmol, 0.874 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C15H19BrO
reactant | trans-1,2-bis(tri-n-butylstannyl)ethylene | 3.11 mmol, 1.886 g | C(CCC)[Sn](\C=C\[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | 2-bromopyrimidine | 3.26 mmol, 0.518 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.059 mmol, 0.068 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.059 mmol, 0.068 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-((E)-2-(pyrimidin-2-yl)vinyl)-5,5,8,8,-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.254 g, 27% | N1=C(N=CC=C1)/C=C/C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C21H24N2O
